US06897231B2
A. N-[3-{1-Perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)-3-pyridylcarboxamide
To a solution of 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine (0.250 g, 0.415 mmol), in tetrahydrofuran (5 mL), were added, nicotinoyl chloride-hydrochloride (0.148 g, 0.83 mmol), triethyl amine (0.210 g, 2.07 mmol, 0.289 mL), and 2 mL of dimethyl formamide. The reaction mixture was stirred at room temperature for 12 hours. After evaporation of the solvent, the residue was dissolved in 10 mL of ethyl acetate and was washed 3 times with water (5 mL). The crude was used without further purification. ES-MS (m/z) 708 [M+1]+.

reactant | 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine | 0.415 mmol, 0.250 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)N | C39H34N6O
reactant | nicotinoyl chloride-hydrochloride | 0.83 mmol, 0.148 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | triethyl amine | 2.07 mmol, 0.289 mL, 0.210 g | C(C)N(CC)CC | C6H15N
reactant | dimethyl formamide | 2 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-[3-{1-Perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)-3-pyridylcarboxamide | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)NC(=O)C=1C=NC=CC1 | C45H37N7O2
